US05262082
Sodium (1.15 g, 50 mmoles) was reacted with anhydrous ethanol (200 mL) under a nitrogen atmosphere. 2,3-dicyanohydroquinone (8.01 g, 50 mmoles) in anhydrous ethanol (50 mL) was added dropwise to the ethoxide solution. Upon completion of the addition, potassium iodide (0.5 g) in 5 mL water was added. This solution was brought to reflux and octyl bromide (9.66 g, 50 mmoles) was added dropwise. The reaction was then refluxed under nitrogen atmosphere for one day. The mixture was acidified with 0.5N aqueous HCl and the solvents were removed under reduced pressure. The crude reaction mixture was flash chromatographed using silica gel and methylene chloride as eluent. The appropriate fractions containing the desired product, 2,3-dicyano-4-octyloxyphenol, were combined and the solvent removed under reduced pressure on a rotary evaporator. The crude product was recrystallized from ethanol/water to give 4.5 g 2,3-dicyano-4-octyloxyphenol.

reactant | Sodium | 50 mmoles, 1.15 g | [Na] | Na
reactant | 2,3-dicyanohydroquinone | 50 mmoles, 8.01 g | C(#N)C1=C(O)C=CC(=C1C#N)O | C8H4N2O2
reactant | ethoxide | [O-]CC
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | octyl bromide | 50 mmoles, 9.66 g | C(CCCCCCC)Br | C8H17Br
reactant | HCl | 0.5N | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2,3-dicyano-4-octyloxyphenol | 4.5 g | C(#N)C1=C(C=CC(=C1C#N)OCCCCCCCC)O | C16H20N2O2
